US07550459B2
4-(3-Chloropropyl)-5,6-difluoro-4H-benzo[1.4]oxazin-3-one
5,6-Difluoro-4H-benzo[1,4]oxazin-3-one (0.13 g, 0.69 mmol), Cs2CO3 (0.45 g, 1.4 mmol), and 1-chloro-3-iodopropane (0.15 g, 0.76 mmol) were mixed according to GP2. Purified by column chromatography (SiO2; heptanes/EtOAc, gradient 0 to 30% EtOAc) to give the title compound (0.13 g, 75%). Rf=0.60 (heptanes/EtOAc 1:1); 1H NMR (CDCl3) d 6.88-6.74 (m, 2H), 4.52 (s, 2H), 4.19-4.14 (m, 2H), 3.58 (t, J=6.4 Hz, 2H), 2.22-2.14 (m, 2H); 13C NMR (CDCl3) d 165.1, 147.5 (dd, J=242.5 Hz, J=12.7 Hz), 143.8 (t, J=3.0 Hz), 140.7 (dd, J=249.8 Hz, J=17.3 Hz), 119.8 (d, J=4.6 Hz), 111.9 (dd, J=7.4 Hz, J=3.9 Hz), 111.2 (d, J=18.8 Hz), 68.4, 42.4 (d, J=9.7 Hz), 42.1, 31.1 (d, J=3.5 Hz).

reactant | 5,6-Difluoro-4H-benzo[1,4]oxazin-3-one | 0.69 mmol, 0.13 g | FC1=C(C=CC2=C1NC(CO2)=O)F | C8H5F2NO2
reactant | Cs2CO3 | 1.4 mmol, 0.45 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-chloro-3-iodopropane | 0.76 mmol, 0.15 g | ClCCCI | C3H6ClI
product | 4-(3-Chloropropyl)-5,6-difluoro-4H-benzo[1.4]oxazin-3-one | 0.13 g, 75% | ClCCCN1C(COC2=C1C(=C(C=C2)F)F)=O | C11H10ClF2NO2
